US05576322
2-[N-(3-Carboxypropyl)-N-methylamino]-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline
20 ml of ethanol and 2.61 ml of a 1N aqueous solution of sodium hydroxide were added to 389 mg of 2-[N-(3-ethoxycarbonylpropyl)-N-methoxyamino]-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline. The obtained mixture was stirred at room temperature for 4 hours and at 50° C. for 10 minutes and neutralized with 1N hydrochloric acid. The crystals precipitated were recovered by filtration, purified by silica gel column chromatography (chloroform/methanol) and recrystallized from ethanol/acetone/water to give 305 mg of the title compound.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-[N-(3-ethoxycarbonylpropyl)-N-methoxyamino]-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 389 mg | C(C)OC(=O)CCCN(OC)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C24H25N5O5
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[N-(3-Carboxypropyl)-N-methylamino]-4-(3,4-methylenedioxybenzyl)amino-6-cyanoquinazoline | 305 mg | C(=O)(O)CCCN(C)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)C#N | C22H21N5O4
